US09416146B2
To a solution of 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzaldehyde (76.2 mg, 0.3 mmol, 1.0 eq.) in MeOH (3.0 mL) was added dimethylamine (170 μL, 0.33 mmol, 1.1 eq.). The mixture was stirred at room temperature for 30 minutes. After cooling to 0° C., NaBH4 (11.3 mg, 0.3 mmol, 1.0 eq.) was added in portions and the mixture was allowed to warm to room temperature and stirred for 2 h. The mixture was carefully treated with dilute HCl (5 mL) and aqueous phase was extracted with EtOAc (3×10 mL). Combined organic extracts was washed with brine (10 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give 5-(4-methylaminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol as a white solid. LCMS (m/z) 270 (M+H); 1H NMR (DMSO-d6) δ: 7.67-7.74 (m, 1H), 7.41-7.46 (m, J=8.5 Hz, 2H), 7.00-7.07 (m, 2H), 6.91-6.98 (m, 2H), 4.91 (s, 2H), 4.53 (s, 3H), 3.85 (s, 2H).

reactant | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzaldehyde | 0.3 mmol, 76.2 mg, 1.0 eq. | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C=O)C=C2 | C14H11BO4
reactant | dimethylamine | 0.33 mmol, 170 μL, 1.1 eq. | CNC | C2H7N
reactant | NaBH4 | 0.3 mmol, 11.3 mg, 1.0 eq. | [BH4-].[Na+]
reactant | HCl | 5 mL | Cl | ClH
solvent | MeOH | 3.0 mL | CO | CH4O
product | 5-(4-methylaminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | CNCC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C15H16BNO3
